US09340546B2
[3-(tert-butoxycarbonylamino)-4-pyridyl]boronic acid (100 mg, 0.4201 mmol), palladium; triphenylphosphane (48.55 mg, 0.04201 mmol), 4-bromo-3-methyl-pyridine (113.9 mg, 0.5461 mmol), K3PO4 (630.0 μL of 2 M, 1.260 mmol), in dioxane (4.000 mL) was heated at 130° C. for 30 min in a MW. The reaction mixture was partitioned between water and DCM. Combined organic extract was dried and concentrated in vacuo. The residue was dissolved in DCM (10 mL) and TFA (2 mL) was added. After 1 h, the reaction mixture was concentrated in vacuo. The residue was loaded on a SCX column, washed with MeOH. The product was eluted with a 2M NH3 in MeOH., filtrate was concentrated in vacuo yielding 3′-methyl-[4,4′-bipyridin]-3-amine that was used in next reaction w/o further purification (90 mg). MS (ES+) 172.1.

reactant | [3-(tert-butoxycarbonylamino)-4-pyridyl]boronic acid | 0.4201 mmol, 100 mg | C(C)(C)(C)OC(=O)NC=1C=NC=CC1B(O)O | C10H15BN2O4
reactant | triphenylphosphane | 0.04201 mmol, 48.55 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-bromo-3-methyl-pyridine | 0.5461 mmol, 113.9 mg | BrC1=C(C=NC=C1)C | C6H6BrN
reactant | K3PO4 | 1.260 mmol, 2 M, 630.0 μL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4.000 mL | O1CCOCC1 | C4H8O2
catalyst | palladium | [Pd] | Pd
product | 3′-methyl-[4,4′-bipyridin]-3-amine | CC=1C=NC=CC1C1=C(C=NC=C1)N | C11H11N3
